US06013649
Part B: To an ice cooled solution of (8.87 g, 30 mmol) of β-(4-methoxyphenylsulfonyl)-D,L-alanine hydrochloride in 200 mL of dry methanol was added dropwise over 20 minutes (10.7 g, 90 mmol) of thionyl chloride, and the solution was refluxed overnight under nitrogen atmosphere. The contents were cooled to room temperature and concentrated by rotory evaporation and triturated with ether. The product was collected by filtration to yield 6.2 grams of β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester hydrochloride.

reactant | β-(4-methoxyphenylsulfonyl)-D,L-alanine hydrochloride | 30 mmol, 8.87 g | Cl.COC1=CC=C(C=C1)S(=O)(=O)CC(N)C(=O)O
reactant | thionyl chloride | 90 mmol, 10.7 g | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | 200 mL | CO | CH4O
product | β-(4-methoxyphenylsulfonyl)-D,L-alanine methyl ester hydrochloride | 6.2 grams | Cl.COC(C(N)CS(=O)(=O)C1=CC=C(C=C1)OC)=O | InChI=1S/C11H15NO5S.ClH/c1-16-8-3-5-9(6-4-8)18(14,15)7-10(12)11(13)17-2;/h3-6,10H,7,12H2,1-2H3;1H
